Simulation_PFC
*SPICE Netlist generated by Advanced Sim server on 17.05.2024 15:31:11
.options MixedSimGenerated

*Schematic Netlist:
CC1 0 NetC1_2 100p
CC2 0 NetC2_2 330p
CC3 0 NetC3_2 1m
CC4 0 NetC4_2 100p
CC5 0 NetC5_2 100p
DD1 0 NetC3_2 GENERATED_MODEL_DD1 IC=2.5
DD2 NetD2_1 NetD2_2 diode
DD3 NetD3_1 NetD2_2 diode
DD4 NetD4_1 NetD2_2 diode
DD5 NetD5_1 NetD2_1 diode
DD6 NetD5_1 NetD3_1 diode
DD7 NetD5_1 NetD4_1 diode
RR1 NetR1_1 VCC 330K TC1=0 TC2=0
RR2 NetR2_1 NetR1_1 330K TC1=0 TC2=0
RR3 NetC2_2 NetR2_1 330K TC1=0 TC2=0
RR4 0 NetC2_2 30K TC1=0 TC2=0
RR5 NetC3_2 NetR5_2 4.7K TC1=0 TC2=0
RR6 0 NetC1_2 100K TC1=0 TC2=0
RR7 NetC2_2 NetR5_2 10K TC1=0 TC2=0
RR8 NetC4_2 NetC1_2 10K TC1=0 TC2=0
RR9 0 NetC2_2 30K TC1=0 TC2=0
RR10 0 NetC4_2 15K TC1=0 TC2=0
RR11 NetC5_2 NetC2_2 9K TC1=0 TC2=0
RR12 0 NetC5_2 30K TC1=0 TC2=0
RR13 VCC NetR13_2 4.7K TC1=0 TC2=0
XU1 NetC2_2 NetC3_2 NetC1_2 IDEAL_COMPARATOR_BASSO_HYS PARAMS: VHIGH=5 VHYS=50m
+ VLOW=100m
VV1 NetR5_2 0 5 AC 1 0
VV2 VCC 0 DC 0 SIN(0 330 50 0 0 0) AC 0 0
VV3 NetR13_2 0 DC 50 SIN(0 50 150 0 0 0) AC 50 0
XV6 NetD4_1 NetD3_1 NetD2_1 NetV6_4 3PHAZE_WYE_NEUTRAL PARAMS: FREQ=50 V_RMS=230

.SAVE allV
.SAVE allI
.SAVE allP

.PROBE {V(NetD2_2)} =PLOT(1) =AXIS(1) =UNITS(V)
.PROBE {V(NetC5_2)} =PLOT(1) =AXIS(1) =UNITS(V)
.PROBE {V(NetC4_2)} =PLOT(1) =AXIS(1) =UNITS(V) =RGB(255, 0, 0)
.PROBE {V(NetC3_2)} =PLOT(1) =AXIS(1) =UNITS(V)
.PROBE {V(NetC2_2)} =PLOT(1) =AXIS(1) =UNITS(V)
.PROBE {V(NetC1_2)} =PLOT(1) =AXIS(1) =UNITS(V)

*Selected Circuit Analyses:
.AC DEC 10 1K 1G

*Models and Subcircuits:
.MODEL GENERATED_MODEL_DD1 D( BV=2.5 )

.MODEL diode D ()

*-------------------------------------
* Ideal_Comparator_Basso with Hysteresis
.subckt Ideal_Comparator_Basso_HYS in+ in-  OUT params: VHIGH=5 VLOW=100m
+ VHYS=50m
E2 HYS in+ Value = { IF ( V(OUT) > {(VHIGH+VLOW)/2}, {VHYS}, 0 ) }
E1 1 0 Value = { IF ( V(HYS,in-) > 0, {VHIGH}, {VLOW} ) }
RO 1 OUT 100
CO OUT 0 100p
.ends

*-----------------------------------------------------------------------------------------------------------
*3 PHAZE
*3 PHAZE WYE + NEUTRAL
.SUBCKT 3PHAZE_WYE_NEUTRAL A B C N PARAMS: V_RMS=120 FREQ=60
.param Amp={V_RMS*sqrt(2)}
V1 A N SIN( 0 {Amp} {FREQ} 0 0 0 )
V2 B N SIN( 0 {Amp} {FREQ} 0 0 -120 )
V3 C N SIN( 0 {Amp} {FREQ} 0 0 120 )
.ENDS

.END